### PR TITLE
[Merged by Bors] - feat: the Lie bracket of vector fields on manifolds

### PR DESCRIPTION
**Pull request by sgouezel**
---

This is just the beginning of the file, more to come, but I have split it here to keep a manageable size.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 1]
```diff
@@ -675,4 +675,368 @@ end ContMDiff
...
+lemma mlieBracketWithin_apply :
+    mlieBracketWithin I V W s x₀ =
+    (mfderiv I 𝓘(𝕜, E) (extChartAt I x₀) x₀).inverse
+    ((lieBracketWithin 𝕜
+      (mpullbackWithin 𝓘(𝕜, E) I (extChartAt I x₀).symm V (range I))
+      (mpullbackWithin 𝓘(𝕜, E) I (extChartAt I x₀).symm W (range I))
+      ((extChartAt I x₀).symm ⁻¹' s ∩ range I)) ((extChartAt I x₀ x₀))) := rfl
+
+lemma mlieBracketWithin_eq_lieBracketWithin {V W : Π (x : E), TangentSpace 𝓘(𝕜, E) x} {s : Set E} :
+    mlieBracketWithin 𝓘(𝕜, E) V W s  = lieBracketWithin 𝕜 V W s := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:716]: Double space.

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 2]
```diff
@@ -675,4 +675,368 @@ end ContMDiff
...
+  ext x
+  simp [mlieBracketWithin_apply]
+
+/-********************************************************************************
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:720]: Do the asterisks have any special meaning? I haven't seen such elsewhere.

Comment (grunweg) [reply Mathlib/Geometry/Manifold/VectorField.lean:720]: (It should say "copy to manifolds", right?)

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 3]
```diff
@@ -675,4 +675,368 @@ end ContMDiff
...
+theorem mlieBracketWithin_of_mem_nhds (h : s ∈ 𝓝 x) :
+    mlieBracketWithin I V W s x = mlieBracket I V W x := by
+  rw [← mlieBracketWithin_univ, ← univ_inter s, mlieBracketWithin_inter h]
+
+theorem mlieBracketWithin_of_isOpen (hs : IsOpen s) (hx : x ∈ s) :
+    mlieBracketWithin I V W s x = mlieBracket I V W x :=
+  mlieBracketWithin_of_mem_nhds (hs.mem_nhds hx)
+
+/-- Variant of `mlieBracketWithin_eventually_congr_set` where one requires the sets to coincide only
+in  the complement of a point. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:814]: double space

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 4]
```diff
@@ -675,4 +675,368 @@ end ContMDiff
...
+  congr 1
+  have : T1Space M := I.t1Space M
+  suffices A : ((extChartAt I x).symm ⁻¹' s ∩ range I : Set E)
+    =ᶠ[𝓝[{(extChartAt I x) x}ᶜ] (extChartAt I x x)]
+      ((extChartAt I x).symm ⁻¹' t ∩ range I : Set E) by
+    apply lieBracketWithin_congr_set' _ A
+  obtain ⟨u, u_mem, hu⟩ : ∃ u ∈ 𝓝 x, u ∩ {x}ᶜ ⊆ {y | (y ∈ s) = (y ∈ t)} :=
+    mem_nhdsWithin_iff_exists_mem_nhds_inter.1 (nhdsWithin_compl_singleton_le x y h)
+  rw [← extChartAt_to_inv (I := I) x] at u_mem
+  have B : (extChartAt I x).target ∪ (range I)ᶜ ∈ 𝓝 (extChartAt I x x) := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:777]: Would this be a useful separate lemma?

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 5]
```diff
@@ -675,4 +675,368 @@ end ContMDiff
...
+
+@[simp] lemma mlieBracketWithin_self : mlieBracketWithin I V V = 0 := by
+  ext x; simp [mlieBracketWithin, mpullback]
+
+@[simp] lemma mlieBracket_self : mlieBracket I V V = 0 := by
+  ext x; simp_rw [mlieBracket, mlieBracketWithin_self, Pi.zero_apply]
+
+/-- Variant of `mlieBracketWithin_congr_set` where one requires the sets to coincide only in
+the complement of a point. -/
+theorem mlieBracketWithin_congr_set' (y : M) (h : s =ᶠ[𝓝[{y}ᶜ] x] t) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorField.lean:765]: Taking a step back: can you briefly say why this generality is useful?

**Review by grunweg — COMMENTED** [review]
A few nits.

File: Mathlib/Geometry/Manifold/VectorField.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/VectorField.lean:777]: It turns out that I had already added such a lemma, so I have used it instead of reproving it :-)

File: Mathlib/Geometry/Manifold/VectorField.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Geometry/Manifold/VectorField.lean:763]: This is a good question, but also a good answer.

**Comment by ocfnash** [comment]
Thanks!

bors merge
